Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.91861438103
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],4.935655102619999
[H:5].[O:1]=[C:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],-1.62462872059
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.829318144971
[C:1]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.57111147478
[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.32493443897
[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:5]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.5945679834600002
[O:1]=[C:2][C@:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:8]([H:9])([H:10])[H:11].[O:5]=[C:6][H:7],-1.61309576136
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.90487105015
[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.15156618857
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.3402360385500005
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],4.51747419839
[O:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8],-0.00777999471029
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.907059796076
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][C:5]([H:6])([H:7])[H:8].[O:3][H:4],4.50760698649
[H:1][C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-5.275193741730001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:13]([H:14])([H:15])[H:16],8.26755639
[C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10],-5.83135596631
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.777996498686
[C:1]#[C:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C@@:3]([H:4])([O:5])[C:10]([H:11])([H:12])[H:13].[C:6]([H:7])([H:8])[H:9],3.80607599326
[H:1][C:2][O:3][C:4]1=[C:5]([H:6])[C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2][O:3][C:4][C:9]([C:7](=[C:5][H:6])[H:8])([H:10])[H:11],3.71256099724
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.011532958469998
[H:1][C:2][C:3]#[C:4][C:6]([H:7])([H:8])[H:9].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-4.8547346216000005
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.58243689194
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.2840601528400004
[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],-0.86394936736
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:8](\[H:9])[O:10][H:11].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-2.09575324443
[H:13].[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.53775837495
